US05703243
Preparation of a sulfamide compound To a solution of (2R,4S)-4-acetylthio-1-t-butoxycarbonylpyrrolidine-2-methanol (i.e., a substrate) in tetrahydrofuran (THF) triphenylphosphine (PPh3) N-t-butoxycarbonylsulfamide (BSMD), and azodicarboxylic acid diethyl ester (DEAD) are successively added under ice cooling. The conditions for this reaction are shown in Table 2, Step A-6. The reaction mixture is diluted with toluene, concentrated, diluted with toluene, and the formed crystals are filtered off. The filtrate is concentrated. The residue is purified by silica gel column chromatography to give (2R,4S)-4-acetylthio-1-t-butoxycarbonyl-2-(N-t-butoxycarbonyl-N-sulfamoylamino)methylpyrrolidine.

reactant | sulfamide | S(=O)(=O)(N)N | H4N2O2S
reactant | (2R,4S)-4-acetylthio-1-t-butoxycarbonylpyrrolidine-2-methanol | C(C)(=O)S[C@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)CO | C12H21NO4S
reactant | azodicarboxylic acid diethyl ester | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (2R,4S)-4-acetylthio-1-t-butoxycarbonyl-2-(N-t-butoxycarbonyl-N-sulfamoylamino)methylpyrrolidine | C(C)(=O)S[C@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)CN(S(N)(=O)=O)C(=O)OC(C)(C)C | C17H31N3O7S2
